Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
pelvic mass
 
Major Surgical or Invasive Procedure:
Ultrasound guided core biopsy of peritoneal implant to the left 
of the umbilicus. 
 
History of Present Illness:
Ms. ___ is a ___ year-old who has noted a few weeks of early 
satiety and a firm feeling in her lower abdomen she attributed 
to constipation.  She took a laxative ___ night and began to 
have crampy abdominal pain, diarrhea, and vomiting.  She noted 
conjunctival hemorrhages ___ and called her PCP for an 
appointment. She was seen today and her PCP ordered ___ CT abdomen 

given exam finding of abdominal mass. CT revealed a large 
abdominopelvic mass and multiple serosal implants concerning for
malignancy.
 
Of note, PUS obtained ___ for cramping shortly after IUD
placement noted "left ovary contains two abutting cysts, 2.5 x
2.2 cm on the right, and anechoic, and 3.2 x 2.8 cm on the left. 


The left cyst is mildly complex with a 0.7 cm echogenic
projection extending from the posterior wall, which could
represent an incomplete septum versus debris.  This is
nonvascular." 6 week f/u recommended, but patient was lost to
follow-up for approximately ___ year.
 
Past Medical History:
POBH:G1

PGYN:
1. Menses: regular 5 - 7 days 
2. STD: none
3. Cysts: none
4. Fibroids: none
5. Abnormal pap: none.  last pap: normal ___

PMH: 
HTN, (ruled out for renal artery stenosis)  
kidney stones, 
obesity
glucose intolerance
sickle cell trait  

PSH: exlap/ruptured appy as child

 
Social History:
___
Family History:
Mother - hypertension, Father - health unknown. 
Cancer - aunt (blood). GF - by-pass surgery.
GF - cerebral aneurysm
 
Physical Exam:
General: Appears anxious
HEENT:  Eyes show conjunctival hemorrhage.  Tympanic membranes
unremarkable bilaterally.  Oropharynx shows moist oral mucosa, 
no
tonsillar enlargement.
NECK:  No anterior neck adenopathy.  No thyroid nodules.
HEART:  Normal S1, S2, regular rate and rhythm without murmurs,
rubs, or gallops.
LUNGS:  Clear to auscultation bilaterally.
Abdomen: obese, soft. No fluid wave appreciated. Firm mass
palpated to level of umbilicus. Mildly TTP R and L upper
quadrants. Minimally TTP RLQ. No rebound, no guarding 
SSE: normal external anatomy, small amount of dark blood in
vault. Pink vaginal mucosa. Large amount of redudant vaginal
tissue. Able to visualize only post lip of cervix and small
portion of IUD strings, but appears WNL. 
BME: small smooth cervix with IUD strings, deviated superiorly.
Vaginal fornices blunted. Large firm mass palpable. Unable to
appreciate fundus or superior-most aspect of mass abdominally 
due
to habitus. 
Rectal: guiac negative. No rectal masses noted. Able to palpate
smooth firm abdominal mass through rectovaginal wall. 
EXTREMITIES:  No ankle edema.

 
Pertinent Results:
___ 08:10AM BLOOD WBC-7.5 RBC-4.35 Hgb-8.6* Hct-27.0* 
MCV-62* MCH-19.7* MCHC-31.7 RDW-18.9* Plt ___
___ 04:06PM BLOOD Neuts-75* Bands-0 ___ Monos-4 Eos-1 
Baso-2 ___ Myelos-0
___ 04:06PM BLOOD Hypochr-3+ Anisocy-2+ Poiklo-1+ 
Macrocy-NORMAL Microcy-3+ Polychr-NORMAL Ovalocy-OCCASIONAL Tear 
Dr-1+
___ 08:10AM BLOOD Glucose-87 UreaN-11 Creat-0.9 Na-138 
K-3.6 Cl-102 HCO3-27 AnGap-13
___ 04:06PM BLOOD ALT-11 AST-39 LD(LDH)-742* AlkPhos-96 
TotBili-0.4

PENDING
___ 04:06PM BLOOD CEA-PND AFP-PND CA125-PND
___ 06:46PM BLOOD INHIBIN A-PND
___ 04:33PM BLOOD CA ___ -PND
PATHOLOGY PENDING
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecology oncology service after 
presenting with nausea, vomiting, a history of early satiety and 
imaging findings concerning for a malignancy of gynecologic 
origin. Please see imaging reports for full details.

On ___ an ultrasound guided biopsy of a peritoneal implant 
was performed. Pathology was requested STAT and a follow up 
appointment was scheduled for Ms. ___ for ___ 
to discuss these pending results. The team discussed their 
concerned about a possibly malignancy as the cause of her 
symptoms and social work also saw the patient for further 
support.
 
Medications on Admission:
1. Labetalol 600 mg PO TID  
2. NIFEdipine CR 120 mg PO DAILY  

 
Discharge Medications:
1. Labetalol 600 mg PO TID 
2. NIFEdipine CR 120 mg PO DAILY 
3. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
do not drive 
RX *oxycodone 5 mg 1 tablet(s) by mouth q4 hours Disp #*20 
Tablet Refills:*0
4. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth q8 hours Disp #*30 
Tablet Refills:*0
5. Simethicone 40-80 mg PO QID:PRN gas 
RX *simethicone 80 mg 1 by mouth q6 hours Disp #*40 Tablet 
Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pelvic mass, biopsy pathology pending

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 

Call for any of the worrisome symptoms below.
Keep your follow up appointment with Dr. ___.
Take your medications as prescribed.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___. 
 
Followup Instructions:
___